Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath, Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female patient with history MM
s/p BMT in ___ on polamyst and decadron, hypertension, and
diabetes who presents with fever and dyspnea.

Patient reports a mildly productive cough for the past three 
days
with yellowish to clear sputum. She had a fever 101.3 two nights
ago and a fever last night. Her temperature was 99.9 today and
she took Tylenol. She also notes shortness of breath and
wheezing. She feels short of breath even while sitting in the
chair. She also notes associated headache, rhinorrhea, fatigue,
and weakness. She notes she used inhalers in the past when she
had a URI. She denies recent travel. She notes that her
granddaughter had a cold with fevers last week. She did not feel
any better today so she presented to her PCP. She denies sore
throat, chest pain, palpitations, abdominal pain,
nausea/vomiting, diarrhea, dysuria, and rashes.

On arrival to the ED, initial vitals were 97.8 84 144/33 20 96%
RA. Exam was significant for wheezes bilaterally. Labs were
notable for WBC 6.9, H/H 12.7/41.2, Plt 253, Na 138, K 3.9,
BUN/Cr ___, and UA bland. CXR was negative for acute process.
Patient was given duonebs x 2, levaquin IV 750mg, and
methylprednisolone IV 125mg. Vitals prior to transfer were 98.0
92 134/65 18 98% RA.

On arrival to the floor

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Light-chain myeloma dx'd ___ with anemia, hypercalcemia, and
mild renal insufficiency. BM: 49% plasma cells. Rx'd Velcade 
with
BSA capped at 2.0 with 20 mg of Decadron the day of her
treatment. Met survey showed rib fracture ? Age.
- ___: Velcade decreased to 0.7 mg/m2 (BSA capped at 2) 
- ___: Decadron stopped due to ___ muscle weakness. Prozac
started 
- ___: Light chains normalized. Switched to maintenance Velcade
weekly 
- ___: Received mobilization high dose Cytoxan with Mesna 
- ___: Stem cell BMT at ___. Uneventful
- ___: started Zometa monthly
- ___: Started Revlimid 10 mg q ___ d
- ___: Revlimid increased to 15 mg qd q ___
- ___: Zometa held due to dental problems. Polyclonal increase
in IgG levels.
- ___: Restarted zometa. Developed more neck pain - MRI showed
cervical disc disease. 
- ___: Zometa increased to q ___.
- ___: Admitted to ___ for rt wrist swelling, pain. Rx'd
antibiotics for ? Septic arthritis but felt more likely
pseudogout. Sent home on NSAIDS.
- ___: Revlimid stopped as free light chains beginning to
increase. 
- ___: Herpes Zoster on face.
- ___: Started Pomalyst 4 mg, decadron 10 mg wkly, monthly
zometa for relapse. Kappa chains 1043, ratio 40.7
- ___: Decdron decreased to 4 mg weekly due to massive wt
gain.

PAST MEDICAL HISTORY:
- Type II Diabetes c/b Neuropathy
- Hypertension
- Hypothyroidism
- Colonic Adenoma
- Depression
- Osteoarthritis  
- Glaucoma
- Pseudogout
- Cataract

 
Social History:
___
Family History:
father died of prostate cancer, brother with thymus cancer  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: Temp 97.6, BP 141/74, HR 94, RR 22, O2 sat 98% RA.
GENERAL: Pleasant woman, in no acute distress, lying in bed
comfortably, speaking in full sentences.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Diffuse bilateral expiratory wheezing with decreased air
movement.
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, trace lower extremity edema, no
erythema or
tenderness.
NEURO: A&Ox3, CNII-XII intact, gross strength and sensation
intact bilaterally.
SKIN: No significant rashes.
 
DISCHARGE PHYSICAL EXAM:
Vitals: 97.4, 124/75, 77, 20, 93%RA
GENERAL: Pleasant woman, NAD, lying in bed comfortably and able 
to get up and move around the room, speaking in full sentences.
EYES: Anicteric
ENT: OP clear. Tooth missing in the left lower molar without 
flucuance or erythema. 
CARDIAC: RRR, no m/r/g.
LUNG: CTAB without wheezing or ronchi.
ABD: Normal bowel sounds, soft, nontender, nondistended
EXT: No lower extremity edema, no erythema or tenderness.
NEURO: A&Ox3, CNII-XII intact, gross strength and sensation 
intact bilaterally.
SKIN: Warm and dry
 
Pertinent Results:
Admission Labs: 
___ 07:31PM BLOOD WBC-6.9 RBC-4.18 Hgb-12.7 Hct-41.2 
MCV-99* MCH-30.4 MCHC-30.8* RDW-15.7* RDWSD-55.8* Plt ___
___ 07:31PM BLOOD Glucose-118* UreaN-5* Creat-0.7 Na-138 
K-3.9 Cl-102 HCO3-28 AnGap-12
___ 12:14AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:14AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 12:14AM URINE RBC-2 WBC-5 Bacteri-FEW Yeast-NONE Epi-10
___ 12:14AM URINE Mucous-FEW
___ 12:14AM URINE

CXR: 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ with cough, fever  // PNA? 
  
COMPARISON:  None 
  
FINDINGS:  
  
PA and lateral views of the chest provided.   Lung volumes are 
low. 
  
There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  
No free air below the right hemidiaphragm is seen. 
  
IMPRESSION:  
  
No acute intrathoracic process. 

Discharge labs: 
___ 07:40AM BLOOD WBC-7.4 RBC-3.76* Hgb-11.1* Hct-36.2 
MCV-96 MCH-29.5 MCHC-30.7* RDW-15.4 RDWSD-54.0* Plt ___
___ 07:40AM BLOOD Glucose-127* UreaN-9 Creat-0.6 Na-142 
K-4.0 Cl-105 HCO3-28 AnGap-13
___ 07:40AM BLOOD Phos-4.3 Mg-2.___ female patient with history MM s/p BMT in ___ on 
polamyst and decadron, hypertension, and diabetes who presents 
with fever and dyspnea.

# Shortness of Breath/Fever: CXR without infiltrate. UA bland 
and no leukocytosis. Exam on admission significant for wheezing. 
She denies prior tobacco use so COPD is less likely. Given 
constellation of symptoms, high on the differential would be a 
viral upper respiratory infection also given her contact 
history. Her CXR was normal and she had no fever while in the 
hospital. Her u/a was unremarkable and her cultures had no 
growth to date at time of discharge. She symptomatically 
improved and was afebrile for her entire stay and was stable for 
discharge. She was asked to continue to monitor her temperature 
and seek medical care if she has a recurrent fever. 

# Multiple Myeloma: She is s/p BMT in ___. Previously on 
Revlimid but currently on pomalyst and decadron. Her home 
pomalyst and decadron during acute illness and
restarted on discharge. 

# Type II Diabetes: Held home metformin and placed on HISS and 
restarted home meds on discharge. 

# Depression: Continued home fluoxetine

# Hypothyroidism: Continued home levothyroxine

# Hypertension: Well-controlled. Continued home atenolol

# Glaucoma: Continued home eyedrops

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID 
5. Fluoxetine 40 mg PO DAILY 
6. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN Pain 
- Moderate 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
8. Levothyroxine Sodium 137 mcg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
10. zoledronic acid 4 mg/5 mL injection EVERY 4  WEEKS 
11. MetFORMIN (Glucophage) 500 mg PO BID 
12. Gabapentin 200 mg PO DAILY 
13. Gabapentin 300 mg PO QHS 
14. Dexamethasone 4 mg PO 1X/WEEK (SA) 
15. Pomalyst (pomalidomide) 4 mg oral DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB/Wheeze 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ Puffs Inhaled 
Every 4 hours Disp #*1 Inhaler Refills:*0 
2.  Space Chamber Plus (inhalational spacing device)    
miscellaneous DAILY 
RX *inhalational spacing device  Use spacer with inhaler Q4 
hours Disp #*1 Each Refills:*0 
3.  Aspirin 325 mg PO DAILY  
4.  Atenolol 25 mg PO DAILY  
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
6.  Dexamethasone 4 mg PO 1X/WEEK (SA)  
7.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID  
8.  FLUoxetine 40 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
10.  Gabapentin 200 mg PO DAILY  
11.  Gabapentin 300 mg PO QHS  
12.  HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN 
Pain - Moderate  
13.  Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS  
14.  Levothyroxine Sodium 137 mcg PO DAILY  
15.  MetFORMIN (Glucophage) 500 mg PO BID  
16.  Pomalyst (pomalidomide) 4 mg oral DAILY  
17.  zoledronic acid 4 mg/5 mL injection EVERY 4  WEEKS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral URI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with fever, cough, shortness 
of breath. You were evaluated for causes of the fever and it is 
most likely a virus as your cultures did not show a bacterial 
cause. You were monitored in the hospital off antibiotics and 
you did not have any further fever and your symptoms improved. 
You improved and are stable for discharge. We made no changes in 
your home medications, we only added an inhaler to continue to 
assist with your breathing. Please follow up with your primary 
care provider in the upcoming week. 
 
Followup Instructions:
___